US07625902B2
To a solution of (RS)-5-[4-(2,5-dimethyl-phenyl)-piperazine-1-carbonyl]-1-phenyl-imidazolidin-2-one (0.050 g) in dimethylacetamide (1 ml) under an argon atmosphere was added sodium hydride (55% in mineral oil, 6.3 mg) at 0° C. The mixture was stirred at 0° C. for 30 min. 3-Chlorobenzenesulfonyl chloride was added. The mixture was stirred at 0° C. for 30 min and at room temperature for 2 h. Water was added and the mixture was extracted with ethyl acetate. The organic phase was washed with water and concentrated. The product was purified by chromatography ((SiO2, cyclohexane=>cyclohexane/ethyl acetate 1:2) to give (RS)-1-(3-chloro-benzenesulfonyl)-4-[4-(2,5-dimethyl-phenyl)-piperazine-1-carbonyl]-3-phenyl-imidazolidin-2-one (0.049 g) as a colorless solid. MS: 552.7 ([M+H]+)

reactant | (RS)-5-[4-(2,5-dimethyl-phenyl)-piperazine-1-carbonyl]-1-phenyl-imidazolidin-2-one | 0.050 g | CC1=C(C=C(C=C1)C)N1CCN(CC1)C(=O)C1CNC(N1C1=CC=CC=C1)=O | C22H26N4O2
reactant | sodium hydride | 6.3 mg | [H-].[Na+]
reactant | 3-Chlorobenzenesulfonyl chloride | ClC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | Water | O | H2O
solvent | dimethylacetamide | 1 ml | CC(=O)N(C)C | C4H9NO
product | (RS)-1-(3-chloro-benzenesulfonyl)-4-[4-(2,5-dimethyl-phenyl)-piperazine-1-carbonyl]-3-phenyl-imidazolidin-2-one | 0.049 g | ClC=1C=C(C=CC1)S(=O)(=O)N1C(N(C(C1)C(=O)N1CCN(CC1)C1=C(C=CC(=C1)C)C)C1=CC=CC=C1)=O | C28H29ClN4O4S
